US08067408B2
3-{[({3′-[(4-{[(1,1-Dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]sulfonyl}benzoic Acid
To a solution of 3-(chlorosulfonyl)benzoic acid (0.0331 g, 0.15 mmol) in DCM (1.5 mL) was added 1,1-dimethylethyl 4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate (0.060 g, 0.15 mmol), and Et3N (0.0211 mL, 0.15 mmol). The resulting mixture was stirred at room temperature for 1 h before it was concentrated and purified using a Gilson HPLC to afford the title compound 0.0374 g (43%). LC-MS m/z 584 (M+H)+.

reactant | 3-(chlorosulfonyl)benzoic acid | 0.15 mmol, 0.0331 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | 1,1-dimethylethyl 4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.15 mmol, 0.060 g | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C)F | C23H30FN3O2
reactant | Et3N | 0.15 mmol, 0.0211 mL | CCN(CC)CC | C6H15N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | 3-{[({3′-[(4-{[(1,1-Dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]-6-fluoro-3-biphenylyl}methyl)amino]sulfonyl}benzoic Acid | 0.0374 g, 43% | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1F)CNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C30H34FN3O6S
